US03939196
Procedure 2. 2-Chloro-1,1-difluoro-3-(p-methoxyphenyl)-2-cyclobutene
To a solution of 3.2 g. (0.049 mole) of 85% potassium hydroxide in 60 ml. of absolute ethanol there is added 10.7 g. (0.04 mole) of 2,2-dichloro-1,1-difluoro-3-(p-methoxyphenyl)cyclobutane. The mixture is heated at reflux for 1 hr. and then cooled to room temperature. Precipitated potassium chloride is removed by filtration and the filtrate concentrated to about 20 ml. About 70 ml. of water is added and the mixture is extracted with three 50 ml. portions of ether. The extract is washed (water 70 ml.), dried and the solvent distilled. The residual material constitutes a 96% yield of desired intermediate suitable for use in the next step. A small sample was distilled for analysis, b.p. 67°C. (0.02 mm) ND27 1.5597.

reactant | potassium hydroxide | 0.049 mole | [OH-].[K+]
reactant | 2,2-dichloro-1,1-difluoro-3-(p-methoxyphenyl)cyclobutane | 0.04 mole | ClC1(C(CC1C1=CC=C(C=C1)OC)(F)F)Cl | C11H10Cl2F2O
solvent | ethanol | C(C)O | C2H6O
product | 2-Chloro-1,1-difluoro-3-(p-methoxyphenyl)-2-cyclobutene | 96% yield | ClC=1C(CC1C1=CC=C(C=C1)OC)(F)F | C11H9ClF2O
